US06699992B2
31.1 g of 3,5-dichloro-2,4-difluoroaniline (0.157 mol) was added to 100 ml of a solution of concentrated hydrochloric acid and water (1:1) at 70° C. The resulting mixture was stirred to be a slurry and cooled to 0-5° C. To the mixture was added 11.6 g of aqueous solution of sodium nitrite (0.165 mol) over 30 minutes. The resulting solution was added to a solution of CuCl (0.188 mol) and hydrochloric acid (100 ml). The reaction mixture was stirred for 2 hours and kept overnight. Fractions obtained by wet-distillation were extracted with toluene. The extract was washed successively with 10% aqueous solution of NaOH, concentrated sulfuric acid and water, dried over sodium sulfate and evaporated. The residue was recrystallized from toluene to give 27.7 g of 2,4-difluoro-1,3,5-trichlorobenzene (0.127 mol) in 81.1% yield.

reactant | 3,5-dichloro-2,4-difluoroaniline | 0.157 mol, 31.1 g | ClC=1C(=C(N)C=C(C1F)Cl)F | C6H3Cl2F2N
reactant | hydrochloric acid | Cl | ClH
reactant | sodium nitrite | 0.165 mol | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 100 ml | Cl | ClH
catalyst | CuCl | 0.188 mol | Cl[Cu]
solvent | water | O | H2O
product | 2,4-difluoro-1,3,5-trichlorobenzene | 0.127 mol, 27.7 g, 81.1% yield | FC1=C(C=C(C(=C1Cl)F)Cl)Cl | C6HCl3F2
